US08067445B2
Step 5: (6-Methoxy-2′-methylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
To (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.228 g, 0.65 mmol) and methylamine (2M in THF; 0.5 mL, 0.84 mmol) in CH2Cl2 (3.4 mL) was added sodium cyanoborohydride (0.061 g, 0.97 mmol), followed by acetic acid (1 drop). The reaction was stirred at room temperature overnight, until no starting material was seen by analytical LCMS. The solution was neutralized with saturated aqueous NaHCO3 and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.65 mmol, 0.228 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | methylamine | 0.84 mmol, 2M, 0.5 mL | CN | CH5N
reactant | sodium cyanoborohydride | 0.97 mmol, 0.061 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3.4 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (6-Methoxy-2′-methylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C19H20F3NO3
